### PR TITLE
Set-enriched categories

### PR DESCRIPTION
**Pull request by umedaikiti**
This PR includes the following.

- #1031 (`auto` and `autorewrite` are removed)
- the bicategory of enriched categories
- pseudofunctors between the bicategory of set-enriched categories and the bicategory of categories (without a proof that they constitute a biequivalence, which gives the valiadation suggested in #1453)
- the pseudofunctor that takes enriched categories and returns underlying categories

I believe that the proof of biequivalence is straightforward but I would like to finish it later because it requires a lot of efforts.

### CODE REVIEW

**Comment by benediktahrens** [comment]
The CI error comes from one of the "sanity" checks:
```
--- checking the ordering prescribed by the files UniMath/*/.packages/files ---
error: *** UniMath/CategoryTheory/Enriched/ChangeOfBase.vo should not require UniMath/CategoryTheory/Enriched/BicatOfEnrichedCat.vo
error: *** UniMath/CategoryTheory/Enriched/ChangeOfBase.vo should not require UniMath/Bicategories/Core/Bicat.vo
error: *** UniMath/CategoryTheory/Enriched/ChangeOfBase.vo should not require UniMath/Bicategories/PseudoFunctors/PseudoFunctor.vo
error: *** UniMath/CategoryTheory/Enriched/ChangeOfBase.vo should not require UniMath/Bicategories/PseudoFunctors/Display/PseudoFunctorBicat.vo
error: *** UniMath/CategoryTheory/Enriched/BicatOfEnrichedCat.vo should not require UniMath/Bicategories/Core/Bicat.vo
error: *** UniMath/CategoryTheory/Enriched/HSETEnriched.vo should not require UniMath/Bicategories/Core/Bicat.vo
error: *** UniMath/CategoryTheory/Enriched/HSETEnriched.vo should not require UniMath/Bicategories/PseudoFunctors/PseudoFunctor.vo
error: *** UniMath/CategoryTheory/Enriched/HSETEnriched.vo should not require UniMath/Bicategories/PseudoFunctors/Display/PseudoFunctorBicat.vo
error: *** UniMath/CategoryTheory/Enriched/HSETEnriched.vo should not require UniMath/Bicategories/Transformations/PseudoTransformation.vo
error: *** UniMath/CategoryTheory/Enriched/HSETEnriched.vo should not require UniMath/Bicategories/Core/Examples/BicatOfCats.vo
error: *** UniMath/CategoryTheory/Enriched/HSETEnriched.vo should not require UniMath/Bicategories/PseudoFunctors/Examples/Composition.vo
error: *** UniMath/CategoryTheory/Enriched/HSETEnriched.vo should not require UniMath/Bicategories/PseudoFunctors/Biequivalence.vo
12 dependency order errors in package listings
make: *** [Makefile:321: .check-prescribed-ordering.okay] Error 1
```
In general, the list of files in `.package/files` should be considered to be ordered by dependency. A file `B` importing file `A` should be listed after file `A`.
Here, this means that the file `Enriched/HSETEnriched.v` should be listed after the files mentioned in the message above.

**Comment by umedaikiti** [comment]
The sanity checks passed, but the build script failed with the message "Error: Universe inconsistency." I don't think I did anything strange. No error occurs when I run `make` in my local environment. Do you have any idea about the reason for this failure?

**Comment by benediktahrens** [comment]
> The sanity checks passed, but the build script failed with the message "Error: Universe inconsistency." I don't think I did anything strange. No error occurs when I run `make` in my local environment. Do you have any idea about the reason for this failure?

There are two builds launched for each PR:
1. A build of UniMath itself, called "CI-Build-UniMath / Build-UniMath-and-Sanity-Checks". 
2. A build of parts of UniMath, and a complete build of the satellite repositories, called "CI-Build-Satellites / build".

It is the second one that failed, specifically when building the satellite repository https://github.com/UniMath/SetHITs.

@nmvdw : could you assist in investigating this error?

File: UniMath/Bicategories/EnrichedCategories/BicatOfEnrichedCat.v [hunk 1]
```diff
@@ -0,0 +1,160 @@
...
+  - intros C D F.
+    use make_enriched_nat_trans.
+    + intro x.
+      apply enriched_cat_id.
+    + intros x y.
+      cbn.
+      abstract (
+        rewrite postcompose_identity, precompose_identity, id_left;
+        reflexivity
+      ).
```
Comment (benediktahrens) [inline UniMath/Bicategories/EnrichedCategories/BicatOfEnrichedCat.v:34]: Here and elsewhere, the `abstract(...)` could/should also include the `intros.... cbn.` tactics.

File: UniMath/CategoryTheory/limits/products.v [hunk 2]
```diff
@@ -372,3 +381,34 @@ use make_Product.
...
 End products_from_limits.
+
+(** * Uniqueness of products *)
+
+Section uniqueness.
+  Context (I : UU) {C : category} (c : I -> C).
+
+  (** The arrow from p1 to p2 induced by the projections from p1 is an iso *)
+  Lemma product_unique (p1 p2 : Product I C c) :
+    is_iso (ProductArrow _ _ p2 (ProductPr I C p1)).
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/products.v:392]: We are transitioning to `is_z_iso`, so maybe it would be best to state this lemma directly in terms of it? The proof should be the same after `is_iso_qinv`.

File: UniMath/CategoryTheory/limits/products.v [hunk 3]
```diff
@@ -372,3 +381,34 @@ use make_Product.
...
+        rewrite H.
+        now rewrite id_left.
+      + rewrite precompWithProductArrow.
+        pose (H := ProductPrCommutes I C c p2 _ (ProductPr _ _ p1)).
+        rewrite ProductArrowEta.
+        apply maponpaths.
+        apply funextsec; intro.
+        rewrite ProductPrCommutes.
+        now rewrite id_left.
+  Qed.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/products.v:412]: This proof should be transparent, at least in part, to allow for the extraction of the inverse.

File: UniMath/CategoryTheory/limits/products.v [hunk 4]
```diff
@@ -57,6 +58,14 @@ Definition isProduct_Product {c : ∏ i, C} (P : Product c) :
   exact (pr2 P).
 Defined.
 
+Definition isaprop_isProduct (c : ∏ (i : I), C) (p : C)
+           (pi : ∏ i, p --> c i) : isaprop (isProduct c p pi).
+Proof.
+  unfold isProduct.
+  do 2 (apply impred; intro).
+  apply isapropiscontr.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/products.v:67]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 5]
```diff
@@ -738,3 +752,280 @@ Proof.
...
+        apply impred; intro.
+        apply hsC.
+  Defined.
+
+
+  Local Definition r_pr1 {x y z : C} : C ⟦x ⊠ (y ⊠ z), x⟧ := π1.
+  Local Definition r_pr2 {x y z : C} : C ⟦x ⊠ (y ⊠ z), y⟧ := π2 · π1.
+  Local Definition r_pr3 {x y z : C} : C ⟦x ⊠ (y ⊠ z), z⟧ := π2 · π2.
+
+  Lemma right_assoc_ternary_product :
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/binproducts.v:980]: It might be good to make parts of this construction opaque.

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 6]
```diff
@@ -738,3 +752,280 @@ Proof.
...
+    - refine (bool_rec _ _ _).
+      + exact pb.
+      + exact pc.
+  Defined.
+
+  Local Definition l_pr1 {x y z : C} : C ⟦(x ⊠ y) ⊠ z, x⟧ := π1 · π1.
+  Local Definition l_pr2 {x y z : C} : C ⟦(x ⊠ y) ⊠ z, y⟧ := π1 · π2.
+  Local Definition l_pr3 {x y z : C} : C ⟦(x ⊠ y) ⊠ z, z⟧ := π2.
+
+  Lemma left_assoc_ternary_product :
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/binproducts.v:937]: It might be good to make parts of this construction opaque.

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 7]
```diff
@@ -738,3 +752,280 @@ Proof.
...
+
+  (** In a poset, the two notions are related by a weak equivalence.
+
+      This could probably be strengthened. *)
+  Lemma isweq_BinproductsToProductsBool_poset
+        (posetC : ∏ a b : C, isaprop (C⟦a,b⟧)) :
+        isweq BinproductsToProductsBool.
+  Proof.
+    apply (isweq_iso _ ProductsBoolToBinproducts).
+    - intros x.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/binproducts.v:816]: It might be good to make parts of this construction opaque.

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 8]
```diff
@@ -696,6 +701,15 @@ Arguments isBinProduct' _ _ _ _ _ : clear implicits.
 
 (** ** Terminal object as the unit (up to isomorphism) of binary products *)
 
+(** Generalize [maponpaths_2] to this lemma *)
+Local Lemma f_equal_2 :
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/limits/binproducts.v:705]: There are already two constructions for this:
```
two_arg_paths:
  ∏ (A B C : UU) (f : A → B → C) (a1 : A) (b1 : B) 
  (a2 : A) (b2 : B), a1 = a2 → b1 = b2 → f a1 b1 = f a2 b2
map_on_two_paths:
  ∏ (X Y Z : UU) (f : X → Y → Z) (x x' : X) (y y' : Y),
  x = x' → y = y' → f x y = f x' y'
  ```

**Comment by nmvdw** [comment]
> > The sanity checks passed, but the build script failed with the message "Error: Universe inconsistency." I don't think I did anything strange. No error occurs when I run `make` in my local environment. Do you have any idea about the reason for this failure?
> 
> There are two builds launched for each PR:
> 
> 1. A build of UniMath itself, called "CI-Build-UniMath / Build-UniMath-and-Sanity-Checks".
> 2. A build of parts of UniMath, and a complete build of the satellite repositories, called "CI-Build-Satellites / build".
> 
> It is the second one that failed, specifically when building the satellite repository https://github.com/UniMath/SetHITs.
> 
> @nmvdw : could you assist in investigating this error?

Interestingly, the error happens in the following line: `Require Export UniMath.CategoryTheory.limits.binproducts.`. The same error message is given if I replace it by `Require Import UniMath.CategoryTheory.limits.binproducts.`.

The error can be avoided by adding `-arg "-type-in-type"` in the `_CoqProject` file. 

My guess is that one of the additions to `UniMath.CategoryTheory.limits.binproducts` requires impredicativity of universes.

**Review by nmvdw — APPROVED** [review]
Some tips for constructing the biequivalence:
- I think it is useful to have a separate statement for constructing invertible 2-cells (pointwise isos are invertible 2-cells). For a biequivalence, you need to construct numerous invertible 2-cells and you can save work by having a more efficient way for constructing invertible 2-cells.
- Sometimes, I meet termination issues when constructing biequivalences (non-termination at the `Qed` or `Defined`). To deal with this, `comp_psfunctor` need to be made opaque at several parts (see for example https://github.com/UniMath/UniMath/blob/master/UniMath/Bicategories/DualityInvolution.v or https://github.com/UniMath/UniMath/blob/master/UniMath/Bicategories/DisplayedBicats/FiberBicategory/TrivialFiber.v and especially the lines which contain `Transparent comp_psfunctor` or `Opaque comp_psfunctor`).

Another thing that I am wondering about, is how do you envision the role of univalence in your development and what are your plans in this regard? For both categories and bicategories, the main focus in univalent foundations tends to be on the univalent ones.

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 9]
```diff
@@ -736,6 +750,282 @@ Proof.
...
+
+  Local Notation "c '⊠' d" := (BinProductObject C (BPC c d)) (at level 40) : cat.
+  Let π1 {x y} : C⟦x ⊠ y,x⟧ := BinProductPr1 _ (BPC x y).
+  Let π2 {x y} : C⟦x ⊠ y,y⟧ := BinProductPr2 _ (BPC x y).
+  Definition binprod_assoc (x y z : C) : C⟦(x ⊠ y) ⊠ z, x ⊠ (y ⊠ z)⟧ :=
+    BinProductArrow _ _ (π1 · π1) (BinProductArrow _ _ (π1 · π2) π2).
+  Let α {x y z} : C⟦(x ⊠ y) ⊠ z, x ⊠ (y ⊠ z)⟧ := binprod_assoc x y z.
+
+  (** A type with three inhabitants, used for indexing ternary products *)
+  Let three : UU := coprod unit bool.
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/limits/binproducts.v:908]: There's already a type like this in Combinatorics/StandardFiniteSets.v

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 10]
```diff
@@ -736,6 +750,282 @@ Proof.
...
+
+  Local Definition three_rec {T : UU} (x y z : T) : three -> T.
+  Proof.
+    refine (coprod_rec _ _ _ _ _).
+    - intro; exact x.
+    - refine (bool_rec _ _ _).
+      + exact y.
+      + exact z.
+  Defined.
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/limits/binproducts.v:917]:
```suggestion
  Local Definition three_rec {T : UU} (x y z : T) : three -> T.
  Proof.
    use coprod_rect.
    - intro; exact x.
    - exact(bool_rect _ y z).
  Defined.
```
As I mentioned in the previous comment there's already a type with three elements, and a three_rec. This also happened to be the source of the -type-in-type problem with SetHITs. Maybe we should tell Coq to warn when someone accidentally eliminates into Set.

File: UniMath/CategoryTheory/limits/binproducts.v [hunk 11]
```diff
@@ -736,6 +750,282 @@ Proof.
...
+
+  Local Definition three_ind {T : UU} {a b c : T} {P : T -> UU}
+    (pa : P a) (pb : P b) (pc : P c) :
+    ∏ i : three, P (three_rec a b c i).
+  Proof.
+    refine (coprod_rec _ _ _ _ _).
+    - intro; exact pa.
+    - refine (bool_rec _ _ _).
+      + exact pb.
+      + exact pc.
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/limits/binproducts.v:927]:
```suggestion
    use coprod_rect.
    - intro; exact pa.
    - exact(bool_rec _ pb pc).
```
Same as above.

**Review by m-lindgren — CHANGES_REQUESTED** [review]
With these changes SetHITs should not have to enable -type-in-type.

I would prefer if there wasn't duplication of material, but since this PR has been around a while I don't mind, we can clean it up later.

I have no comments on the mathematics of this, I just looked at the SetHIT-problem.

**Comment by m-lindgren** [comment]
Can we try and merge master into this and see if it compiles with the recent changes to UniMath?

**Comment by benediktahrens** [comment]
> Can we try and merge master into this and see if it compiles with the recent changes to UniMath?

Done!

File: UniMath/CategoryTheory/Monoidal/Cartesian.v [hunk 12]
```diff
@@ -0,0 +1,165 @@
...
+    forall {A B C : UU} (f : A -> B -> C) (a a' : A) (b b' : B),
+      a = a' -> b = b' -> f a b = f a' b'.
+  Proof.
+    do 8 intro; intros eq1 eq2.
+    abstract (rewrite eq1; rewrite eq2; reflexivity).
+  Defined.
+
+  Lemma cartesian_monoidal : monoidal_cat.
+  Proof.
+    use mk_monoidal_cat.
```
Comment (m-lindgren) [inline UniMath/CategoryTheory/Monoidal/Cartesian.v:87]:
```suggestion
    use make_monoidal_cat.
```
this should fix the build.
